US05843941
rac-3-Amino-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one (76)
To a solution of rac-3-azido-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one (5 g, 15.2 mmole) in 300 mL of acetic acid was added 5% Pd/C (250 mg). The mixture was hydrogenated at 1 atm pressure for 2 hours. The crude material was purified on activated alumina and crystallized from ether-isopropyl ether yielding 3.4 g (74%) of solid. Melting point: 188°-191° C.

reactant | rac-3-azido-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one | 15.2 mmole, 5 g | N(=[N+]=[N-])C1C(NC2=C(C(=C1)C1=C(C=CC=C1)F)C=C(C=C2)Cl)=O | C16H10ClFN4O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | rac-3-Amino-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one | NC1C(NC2=C(C(=C1)C1=C(C=CC=C1)F)C=C(C=C2)Cl)=O | C16H12ClFN2O
